US08735589B2
Preparation of 2-(4-benzylamino-3-ethynyl-phenyl)-ethanesulfonic Acid Methylamide
2-(4-benzylamino-3-trimethylsilanylethynyl-phenyl)-ethanesulfonic acid methylamide (100 g) was dissolved in ethanol (1000 ml) at 25° C. and cooled to 15-20° C. Potassium hydroxide (20 g) was added slowly maintaining temperature below 25° C., stirred for 2-3 hours and cooled to 10-15° C. pH of the reaction mixture was adjusted to 5 with 10% dilute HCl and concentrated under vacuum below 40° C. to obtain a residue. The residue was dissolved in water (300 ml) and extracted with dichloromethane (2500 ml). The organic layer was washed with water and concentrated under vacuum to obtain a residue. The residue was treated with heptane (400 ml) to obtain a solid which was filtered and dried under vacuum at 50-55° C. for 12 hours. (Yield: 75 g, HPLC Purity: 98%)

reactant | 2-(4-benzylamino-3-trimethylsilanylethynyl-phenyl)-ethanesulfonic acid methylamide | 100 g | CNS(=O)(=O)CCC1=CC(=C(C=C1)NCC1=CC=CC=C1)C#C[Si](C)(C)C | C21H28N2O2SSi
reactant | Potassium hydroxide | 20 g | [OH-].[K+]
reactant | HCl | Cl | ClH
reactant | heptane | 400 ml | CCCCCCC | C7H16
solvent | ethanol | 1000 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | 2-(4-benzylamino-3-ethynyl-phenyl)-ethanesulfonic Acid Methylamide | CNS(=O)(=O)CCC1=CC(=C(C=C1)NCC1=CC=CC=C1)C#C | C18H20N2O2S
